US09447030B2
A solution of tert-butyl (5-(cyclopent-1-en-1-yl)-2-nitrophenyl)carbamate (4.3 g, 14.13 mmol, 1.0 equiv.) in dichloromethane (50 mL) was added TFA (10 mL) at room temperature. The reaction mixture was stirred at room temperature for 2 h. The reaction was then evaporated under reduced pressure. The crude residue was quenched with a saturated solution of sodium bicarbonate. The product was extracted with ethyl acetate, washed with water and brine, dried, filtered and concentrated under reduced pressure. The crude residue was purified by column chromatography (silica gel, 60% EtOAc/hexanes) to give 5-(cyclopent-1-en-1-yl)-2-nitroaniline (2.5 g, 87% yield).

reactant | tert-butyl (5-(cyclopent-1-en-1-yl)-2-nitrophenyl)carbamate | 14.13 mmol, 4.3 g, 1.0 equiv. | C1(=CCCC1)C=1C=CC(=C(C1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C16H20N2O4
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-(cyclopent-1-en-1-yl)-2-nitroaniline | 2.5 g, 87% yield | C1(=CCCC1)C=1C=CC(=C(N)C1)[N+](=O)[O-] | C11H12N2O2
